US05919986
g) (4aR,5R,8aR)-5-((R)-1,5-Dimethyl-5-trimethylsilanyloxy-hex-3-ynyl)-4a-methyl-octahydro-naphthalen-1-one
860 mg (2.96 mmol) of (4aR,5R,8aR)-5-((R)-5-hydroxy-1,5-dimethyl-hex-3-ynyl)-4a-methyl-octahydro-naphthalen-1-one in 23 ml of abs. CH2Cl2 was treated with 3.89 ml (26.6 mmol) of TMS-imidazole and kept at RT for 4 h. Pouring onto crushed ice, twofold extraction with ether, washing with water and brine, and drying over sodium sulfate left a crude product, which was purified by flash chromatography (SiO2, hexane/AcOEt=9/1). Thereby, 998 mg of the title compound was obtained as colorless oil.

reactant | (4aR,5R,8aR)-5-((R)-5-hydroxy-1,5-dimethyl-hex-3-ynyl)-4a-methyl-octahydro-naphthalen-1-one | 2.96 mmol, 860 mg | OC(C#CC[C@@H](C)[C@@H]1[C@]2(CCCC([C@@H]2CCC1)=O)C)(C)C | C19H30O2
reactant | TMS-imidazole | 26.6 mmol, 3.89 ml | [Si](C)(C)(C)C=1NC=CN1 | C6H12N2Si
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (4aR,5R,8aR)-5-((R)-1,5-Dimethyl-5-trimethylsilanyloxy-hex-3-ynyl)-4a-methyl-octahydro-naphthalen-1-one | 998 mg | C[C@H](CC#CC(C)(O[Si](C)(C)C)C)[C@@H]1[C@]2(CCCC([C@@H]2CCC1)=O)C | C22H38O2Si
